US08470982B2
Preparation of 1-tert-butyl-cyclohexanol (3m)
According to Example 2, t-BuMgCl.LiCl (1.01 M in THF 2.18 mL; 2.20 mmol; 1.10 equiv) was reacted with cyclohexanone (178 mg; 2.00 mmol) in the presence of LaCl3.2LiCl (0.33 M; 6.06 mL, 2.00 mmol, 1.00 equiv). Column chromatographical purification (silica; pentane:Et2O, 9:1) afforded the desired product as colorless oil, which started to crystallize after being chilled, mp=49−50° C. (287 mg, 92%).

reactant | t-BuMgCl | C(C)(C)(C)[Mg]Cl
reactant | LiCl | 2.20 mmol, 1.01 M, 2.18 mL, 1.10 equiv | [Li+].[Cl-]
reactant | cyclohexanone | 2.00 mmol, 178 mg | C1(CCCCC1)=O | C6H10O
product | 1-tert-butyl-cyclohexanol | C(C)(C)(C)C1(CCCCC1)O | C10H20O
